US09029399B2
Preparation of intermediate 6-Bromo-4-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester (I-26b)
Using analogous reaction condition and reagents as described in Example 25 for the preparation of I-25a, 4-bromo-2,6-difluoro-benzaldehyde (I-26a: 2.8 g, 12.8 mmol) was reacted with TEA (1.66 g, 16.47 mmol), mercapto-acetic acid methyl ester (1.47 g, 13.83 mmol) and acetonitrile (50 mL) to afford crude product. Purification by column chromatography on silica gel (2% ethyl acetate in hexane) afforded 2.3 g of the product (64% yield).

reactant | 4-bromo-2,6-difluoro-benzaldehyde | 12.8 mmol, 2.8 g | BrC1=CC(=C(C=O)C(=C1)F)F | C7H3BrF2O
reactant | mercapto-acetic acid methyl ester | 13.83 mmol, 1.47 g | COC(CS)=O | C3H6O2S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 6-Bromo-4-fluoro-benzo[b]thiophene-2-carboxylic acid methyl ester | 2.3 g, 64% yield | COC(=O)C1=CC2=C(S1)C=C(C=C2F)Br | C10H6BrFO2S
